US09062070B2
A solution of 3-bromo-4-fluorobenzoic acid (100 g, 0.456 mol) and CDI (77.2 g, 0.547 mol) in 1 L of dry DCM was stirred at r.t. for 30 min and then O,N-dimethyl-hydroxylamine (53.4 g, 0.547 mol) was added. The resulted mixture was stirred overnight. The solvents were removed under vacuum and the residue was purified via column chromatograph to afford 3-bromo-4-fluoro-N-methoxy-N-methylbenzamide.

reactant | 3-bromo-4-fluorobenzoic acid | 0.456 mol, 100 g | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
reactant | CDI | 0.547 mol, 77.2 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | O,N-dimethyl-hydroxylamine | 0.547 mol, 53.4 g | CONC | C2H7NO
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | 3-bromo-4-fluoro-N-methoxy-N-methylbenzamide | BrC=1C=C(C(=O)N(C)OC)C=CC1F | C9H9BrFNO2
